US05891909
a) 5-Isoquinolinesulfonyl chloride
A mixture of 5-isoquinolinesulfonic acid (4.18 g, 20 mmol), and phosphorus pentachloride (6.24 g, 30 mmol) in phosphorus oxychloride (20 mL) was heated at 120° C. for two days. The reaction mixture was cooled to ambient temperature and diluted with dry chloroform (60 mL). The white precipitate was collected, washed with dry chloroform and dried under high vacuum to give the title compound as a white solid (4.40 g, 83%) which was used for the next step without further purification. 1H-NMR (300 MHz, CDCl3) δ 9.95 (s, 1H), 9.16 (d, J=6.8 Hz, 1H), 8.74 (d, J=6.8 Hz, 1H), 8.52 (t, J=7.0 Hz, 2H), 7.99 (t, J=7.3 Hz, 1H).

reactant | 5-isoquinolinesulfonic acid | 20 mmol, 4.18 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)O | C9H7NO3S
reactant | phosphorus pentachloride | 30 mmol, 6.24 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Isoquinolinesulfonyl chloride | 4.40 g, 83% | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
